US07855290B2
N-[4-({2-[(Azetidin-1-ylcarbonyl)amino]pyridin-4-yl}oxy)-2-fluorophenyl]-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide hydrochloride
N-[4-({2-[(Azetidin-1-ylcarbonyl)amino]pyridin-4-yl}oxy)-2-fluorophenyl]-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide (25.4 mg) was suspended in acetone (0.254 ml). To this was added a 5M hydrochloric acid (0.010 ml) at room temperature, followed by stirring for 3 hr. After adding of acetone (0.127 ml), insoluble matter was collected by filtration and washed with acetone (0.127 ml, twice). This was dried under aeration at room temperature, then hot air-dried at 60° C. to provide the titled compound as white powder (26.5 mg, 97%).

reactant | N-[4-({2-[(Azetidin-1-ylcarbonyl)amino]pyridin-4-yl}oxy)-2-fluorophenyl]-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide | 25.4 mg | N1(CCC1)C(=O)NC1=NC=CC(=C1)OC1=CC(=C(C=C1)NC(=O)C1(CC1)C(=O)NC1=CC=C(C=C1)F)F | C26H23F2N5O4
reactant | hydrochloric acid | 5M, 0.010 ml | Cl | ClH
solvent | acetone | 0.254 ml | CC(=O)C | C3H6O
solvent | acetone | 0.127 ml | CC(=O)C | C3H6O
product | N-[4-({2-[(Azetidin-1-ylcarbonyl)amino]pyridin-4-yl}oxy)-2-fluorophenyl]-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide hydrochloride | 26.5 mg, 97% | Cl.N1(CCC1)C(=O)NC1=NC=CC(=C1)OC1=CC(=C(C=C1)NC(=O)C1(CC1)C(=O)NC1=CC=C(C=C1)F)F | InChI=1S/C26H23F2N5O4.ClH/c27-16-2-4-17(5-3-16)30-23(34)26(9-10-26)24(35)31-21-7-6-18(14-20(21)28)37-19-8-11-29-22(15-19)32-25(36)33-12-1-13-33;/h2-8,11,14-15H,1,9-10,12-13H2,(H,30,34)(H,31,35)(H,29,32,36);1H
